US07678803B2
Sodium hydride (60% suspension in mineral oil, 50 mg, 1.3 mmol) is added to a solution of 3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one (50 mg, 0.29 mmol) in anhydrous DMF (1 mL). This mixture is stirred at room temperature for 5 minutes before 7,8-Difluoro-quinazolin-4-ylamine (75 mg, 0.41 mmol) is added. After 10 minutes at room temperature, the reaction mixture is heated at 50° C. overnight. The cooled reaction mixture is partitioned between ethyl acetate and water to remove DMF, and the organic layer is concentrated to dryness via Rotovap. The resulting crude residue is further purified through two consecutive silica gel columns (0%-8% of methanol in DCM, gradient) to afford 1-(4-Amino-8-fluoro-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (15 mg, not optimized) as white solid. LC/MS m/z=339 [M+H]+.

reactant | Sodium hydride | 1.3 mmol, 50 mg | [H-].[Na+]
reactant | 3,6,6-Trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.29 mmol, 50 mg | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
reactant | 7,8-Difluoro-quinazolin-4-ylamine | 0.41 mmol, 75 mg | FC1=CC=C2C(=NC=NC2=C1F)N | C8H5F2N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(4-Amino-8-fluoro-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | NC1=NC=NC2=C(C(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)F | C19H19FN4O
